US07807690B2
4-Aminothiazole-5-carboxylic acid methyl ester
To a 1 l solution of 37.6 g of 4-amino-2-methanesulfonylthiazole-5-carboxylic acid methyl ester in a methanol:THF=1:1 mixed solvent at room temperature, there was gradually added 15 g of sodium borohydride over a period of 10 hours. Stirring was continued for 40 hours at room temperature, and then the reaction mixture was poured into a mixture of 6 l of ethyl acetate and 3 l of water. The organic layer was washed with 3 l of water and 3 l of brine, and the aqueous layer was extracted again with ethyl acetate. The organic layers were combined and dried over anhydrous magnesium sulfate. The desiccant was filtered out and the filtrate was concentrated under reduced pressure. The residue was purified by silica gel column chromatography (ethyl acetate-heptane system) to obtain the target compound (15.3 g) as an off-white solid.

reactant | 4-amino-2-methanesulfonylthiazole-5-carboxylic acid methyl ester | 37.6 g | COC(=O)C1=C(N=C(S1)S(=O)(=O)C)N | C6H8N2O4S2
reactant | methanol | CO | CH4O
reactant | THF | C1CCOC1 | C4H8O
reactant | sodium borohydride | 15 g | [BH4-].[Na+]
solvent | water | 3 l | O | H2O
solvent | ethyl acetate | 6 l | C(C)(=O)OCC | C4H8O2
product | 4-Aminothiazole-5-carboxylic acid methyl ester | 15.3 g | COC(=O)C1=C(N=CS1)N | C5H6N2O2S
